US20010041700A1
(a) 2-(Morpholine-4-carbonyl)-cyclohexanecarboxylic Acid
To a solution of cis-1,2-cyclohexane dicarboxylic anhydride (1.0 g, 6.49 mmol) in CH2Cl2 (16 mL) was added morpholine (0.56 g, 6.49 mmol) at 0° C., the resulting mixture was allowed to stir at room temperature overnight (20 h). When complete the reaction mixture was washed with HCl (1.0 N, 20 mL) then with H2O (2×20 mL). The combined aqueous layers were extracted with CH2Cl2 (3×10 mL), and the combined organic layers were dried over MgSO4, the solvent was evaporated in vacuo to give the title compound (1.4 g, 90%) as a white solid which was used later without further purification.

reactant | cis-1,2-cyclohexane dicarboxylic anhydride | 6.49 mmol, 1.0 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | morpholine | 6.49 mmol, 0.56 g | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
product | 2-(Morpholine-4-carbonyl)-cyclohexanecarboxylic Acid | 1.4 g, 90% | N1(CCOCC1)C(=O)C1C(CCCC1)C(=O)O | C12H19NO4
